US09290519B2
Preparation of 8-bromo-1,2,3,4-tetrahydronaphthalen-1-ol
To a mixture of 78.5 g (530 mmol) of 1,2,3,4-tetrahydronaphthalen-1-ol, 160 ml (1.06 mol) of TMEDA, and 3000 ml of pentane cooled to −20° C. 435 ml (1.09 mol) of 2.5M nBuLi in hexanes was added dropwise. The obtained mixture was refluxed for 12 h. To the resulting mixture cooled to −80° C. 160 ml (1.33 mol) of 1,2-dibromotetrafluoroethane was added, and this mixture was allowed to warm to room temperature and then stirred for 12 h at this temperature. After that 100 ml of water was added. The resulting mixture was diluted with 2000 ml of water, and the organic layer was separated. The aqueous layer was extracted with 3×400 ml of toluene. The combined organic extract was dried over Na2SO4 and evaporated to dryness. The residue was distilled using the Kugelrohr apparatus, b.p. 150-160° C./1 mbar. The resulting yellow oil was dissolved in 100 ml of triethylamine, and the obtained solution was added dropwise to a stirred solution of 71.0 ml (750 mmol) of acetic anhydride and 3.00 g (25.0 mmol) of DMAP in 105 ml of triethylamine. The resulting mixture was stirred for 5 min, then 1000 ml of water was added, and the obtained mixture was stirred for 12 h. After that the reaction mixture was extracted with 3×200 ml of ethyl acetate. The combined organic extract was washed with aqueous Na2CO3, dried over Na2SO4, and evaporated to dryness. The residue was purified by flash chromatography on silica gel 60 (40-63 um, eluent: hexane-ethyl acetate=30:1, vol.). The resulting acetate was dissolved in 1500 ml of methanol, 81.0 g (1.45 mol) of KOH was added, and the obtained mixture was refluxed for 3 h. The reaction mixture was then cooled to room temperature and poured into 4000 ml of water, and the title product was extracted with 3×300 ml of dichloromethane. The combined organic extract was dried over Na2SO4 and then evaporated to dryness. Yield 56.0 g (47%) of a white crystalline solid. Anal. Calc for C10H11BrO: C, 52.89; H, 4.88. Found: C, 53.01; H, 4.75. 1H NMR (CDCl3): δ 7.38-7.41 (m, 1H, 7-H); 7.03-7.10 (m, 2H, 5,6-H); 5.00 (m, 1H, 1-H), 2.81-2.87 (m, 1H, 4- or 4′-H), 2.70-2.74 (m, 1H, 4′- or 4-H), 2.56 (br.s., 1H, OH), 2.17-2.21 (m, 1H, 2- or 2′-H), 1.74-1.79 (m, 2H, 3,3′-H).

reactant | 1,2,3,4-tetrahydronaphthalen-1-ol | 530 mmol, 78.5 g | C1(CCCC2=CC=CC=C12)O | C10H12O
reactant | TMEDA | 1.06 mol, 160 ml | CN(C)CCN(C)C | C6H16N2
reactant | nBuLi | 1.09 mol, 2.5M, 435 ml | [Li]CCCC
reactant | 1,2-dibromotetrafluoroethane | 1.33 mol, 160 ml | BrC(C(Br)(F)F)(F)F | C2Br2F4
reactant | acetic anhydride | 750 mmol, 71.0 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | KOH | 1.45 mol, 81.0 g | [OH-].[K+]
solvent | water | 2000 ml | O | H2O
catalyst | DMAP | 25.0 mmol, 3.00 g | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | triethylamine | 105 ml | C(C)N(CC)CC | C6H15N
solvent | water | 4000 ml | O | H2O
solvent | water | 1000 ml | O | H2O
solvent | water | 100 ml | O | H2O
solvent | pentane | 3000 ml | CCCCC | C5H12
product | 8-bromo-1,2,3,4-tetrahydronaphthalen-1-ol | BrC=1C=CC=C2CCCC(C12)O | C10H11BrO
